US08217032B2
3,5-Difluoro-2-methylsulfanyl-benzene boronic acid
Charge a flask with isopropyl magnesium chloride (145 mL, 2M in THF, 290 mmol) and dilute with tetrahydrofuran (150 mL) and heat to 40° C. under nitrogen. Add 1-bromo-3,5-difluoro-2-methylsulfanyl-benzene (28 g, 117 mmol) slowly over 5 minutes. After 30 minutes, cool the reaction to 0° C. and add trimethylborate (46 mL, 410 mmol) diluted with tetrahydrofuran (100 mL) via an addition funnel over 5 minutes. Partition the resulting gelatinous mixture between methylene chloride and 1N HCl. Acidify the aqueous layer to pH˜1 (if needed) and vigorously stir the biphasic mixture until all solids are dissolved. Separate the organic layer. Dry over sodium sulfate, filter and concentrate. Triturate with hexanes and filter to yield 14.7 g (61%) of the title compound.

reactant | isopropyl magnesium chloride | 290 mmol, 2M, 145 mL | C(C)(C)[Mg]Cl
reactant | 1-bromo-3,5-difluoro-2-methylsulfanyl-benzene | 117 mmol, 28 g | BrC1=C(C(=CC(=C1)F)F)SC | C7H5BrF2S
reactant | trimethylborate | 410 mmol, 46 mL | COB(OC)OC | C3H9BO3
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 3,5-Difluoro-2-methylsulfanyl-benzene boronic acid | 14.7 g, 61% | FC=1C(=C(C=C(C1)F)B(O)O)SC | C7H7BF2O2S
